US07211672B2
(2S,4R)-4-Chloro-N-ethyl-N-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-benzamide (F-2)
(2S,4R)-4-Chloro-N-ethyl-N-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-benzamide was synthesized as described in general procedure C, except following benzyl carbamate removal the amine was modified in the following manner. To a solution of (2S,4R)-(4-amino-2-methyl-3,4-dihydro-2H-quinolin-1-yl)-(4-methoxy-phenyl)-methanone (200 mg, 0.68 mmol) in 20 ml dichloromethane was added acetaldehyde (0.042 mL, 0.75 mmol). The reaction mixture was stirred 30 min at room temperature. Then sodium triacetoxyborohydride (0.156 g, 0.75 mmol) was added and the resulting reaction mixture was stirred at room temperature for 6 hours. N,N-diisopropylethylamine (0.3 mL, 2.3 mmol) and 4-chlorobenzoyl chloride (0.4 mL, 3.1 mmol) was added and stirred at room temperature overnight. Dichloromethane (40 ml) was added. The mixture was washed with 30 ml sodium hydroxide (1N). The organic layer was dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography, eluting with ethyl acetate-dichloromethane (1:4) to give 80 mg (24%) title compound

reactant | (2S,4R)-(4-amino-2-methyl-3,4-dihydro-2H-quinolin-1-yl)-(4-methoxy-phenyl)-methanone | 0.68 mmol, 200 mg | N[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)OC)C | C18H20N2O2
reactant | acetaldehyde | 0.75 mmol, 0.042 mL | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 0.75 mmol, 0.156 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | N,N-diisopropylethylamine | 2.3 mmol, 0.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-chlorobenzoyl chloride | 3.1 mmol, 0.4 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (2S,4R)-4-Chloro-N-ethyl-N-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-benzamide | 80 mg, 24% | ClC1=CC=C(C(=O)N([C@@H]2C[C@@H](N(C3=CC=CC=C23)C(C2=CC=C(C=C2)OC)=O)C)CC)C=C1 | C27H27ClN2O3
